US08030302B2
5-(2-Fluoro-4-nitrophenoxy)-1-(tetrahydro-2H-pyran-2-yl)-N-(tetrahydro-2H-pyran-4-yl)-1H-indazole-6-carboxamide
The solution of 5-(2-fluoro-4-nitrophenoxy)-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole-6-carboxylic acid (0.5 g, 1.25 mmol), tetrahydropyran-4-ylamine (0.13 g, 1.25 mmol), EDCI (0.24 g, 1.25 mmol), HOBT (0.17 g, 1.25 mmol), N-methylmorpholine (0.5 mL) in DMF (5 mL) is stirred at RT overnight. Then the reaction mixture is partitioned with saturated aqueous NH4Cl (20 mL) and EtOAc (50 mL). The organic phase is separated, dried over MgSO4, and concentrated. The residue is purified by silica gel column chromatography eluting with PE:EtOAc (1:1) to provide the product (0.49 g, 81.2% yield). MS (m/z): 485.1 (M+H).

reactant | 5-(2-fluoro-4-nitrophenoxy)-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole-6-carboxylic acid | 1.25 mmol, 0.5 g | FC1=C(OC=2C=C3C=NN(C3=CC2C(=O)O)C2OCCCC2)C=CC(=C1)[N+](=O)[O-] | C19H16FN3O6
reactant | tetrahydropyran-4-ylamine | 1.25 mmol, 0.13 g | O1CCC(CC1)N | C5H11NO
reactant | EDCI | 1.25 mmol, 0.24 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 1.25 mmol, 0.17 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 0.5 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-(2-Fluoro-4-nitrophenoxy)-1-(tetrahydro-2H-pyran-2-yl)-N-(tetrahydro-2H-pyran-4-yl)-1H-indazole-6-carboxamide | 0.49 g, 81.2% yield | FC1=C(OC=2C=C3C=NN(C3=CC2C(=O)NC2CCOCC2)C2OCCCC2)C=CC(=C1)[N+](=O)[O-] | C24H25FN4O6
